US06150524
A solution of 4,5α-epoxy-3-methoxymethoxy-17-methyl-6α-((2-thienyl)-acetyloxy)-morphinan-7-ene (1.00 g, 2.20 mmol) in glacial acetic acid (30 ml) is mixed with (30 ml) of water and stirred for 5 hours at 100° C. under N2. The solution is evaporated down using a Rotavapor. The residue obtained is purified by flash chromatography (silica gel; mobile phase: CH2Cl2 :MeOH=9:1) and lyophilised in order to obtain 4,5α-epoxy-17-methyl-6α-((2-thienyl)-acetyloxy)-morphinan-7-en-3-ol acetate (0.444 g, 89.9%) as a colourless foam.

reactant | 4,5α-epoxy-3-methoxymethoxy-17-methyl-6α-((2-thienyl)-acetyloxy)-morphinan-7-ene | 2.20 mmol, 1.00 g | O1C2=C(C=CC=3C[C@@H]4[C@@H]5C=C[C@@H]([C@H]1[C@@]5(C23)CCN4C)OC(CC=4SC=CC4)=O)OCOC | C25H27NO5S
reactant | water | 30 ml | O | H2O
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 4,5α-epoxy-17-methyl-6α-((2-thienyl)-acetyloxy)-morphinan-7-en-3-ol acetate | 0.444 g, 89.9% | C(C)(=O)OC=1C=CC=2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)OC(CC=3SC=CC3)=O | C25H25NO5S
